US08222416B2
A solution of 1-(1-benzenesulfonyl-5-fluoro-1H-pyrrolo[2,3-b]pyridin-2-yl)-2-cyclobutyl-1-(4-methylsulfonyl-phenyl)-ethanol (520 mg, 1 mmol) in tetrahydrofuran (0.5 mL) and a tetrabutylammonium fluoride solution in tetrahydrofuran (1 M, 5.0 mL, 5.0 mmol) was stirred at room temperature for 2 h. The mixture was diluted with ethyl acetate (150 mL), washed with a saturated aqueous ammonium chloride solution and brine, dried over anhydrous sodium sulfate and concentrated in vacuo. Purification using a Waters automated flash system (column: Xterra 30 mm×100 mm, sample manager 2767, pump 2525, detector: ZQ mass and UV 2487, solvent system: acetonitrile and 0.1% ammonium hydroxide in water) afforded 2-[(E)-2-cyclobutyl-1-(4-methanesulfonyl-phenyl)-vinyl]-5-fluoro-1H-pyrrolo[2,3-b]pyridine (230 mg, 62.1%) as a light yellow solid: LC/MS m/e calcd for C20H19FN2O2S [M+H]+ 371.45, observed 371.0; 1H NMR (400 MHz, CD3OD) δ ppm 8.06 (d, J=8.3 Hz, 3H), 7.50-7.58 (m, 3H), 6.66 (d, J=9.3 Hz, 1H), 5.86 (s, 1H), 3.22 (s, 3H), 2.99 (m, 1H), 2.04-2.16 (m, 4H), 1.85-1.94 (m, 2H).

reactant | 1-(1-benzenesulfonyl-5-fluoro-1H-pyrrolo[2,3-b]pyridin-2-yl)-2-cyclobutyl-1-(4-methylsulfonyl-phenyl)-ethanol | 1 mmol, 520 mg | C1(=CC=CC=C1)S(=O)(=O)N1C(=CC=2C1=NC=C(C2)F)C(CC2CCC2)(O)C2=CC=C(C=C2)S(=O)(=O)C | C26H25FN2O5S2
reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 0.5 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | 150 mL | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 5.0 mmol, 1 M, 5.0 mL | O1CCCC1 | C4H8O
product | 2-[(E)-2-cyclobutyl-1-(4-methanesulfonyl-phenyl)-vinyl]-5-fluoro-1H-pyrrolo[2,3-b]pyridine | 230 mg, 62.1% | C1(CCC1)/C=C(\C1=CC=C(C=C1)S(=O)(=O)C)/C1=CC=2C(=NC=C(C2)F)N1 | C20H19FN2O2S
